US06573260B1
Ethyl 4-(S)-benzyloxycarbonylamino-4-cyclopropyl-3-hydroxybutanoate
Ethyl 4-(S)-benzyloxycarbonylamino-4-cyclopropyl-3-oxobutanoate (1.526 g, 4.778 mmol) was dissolved in anhydrous ethanol (15 ml), and the solution was mixed with sodium borohydride (94.6 mg, 2.50 mmol)under ice-cooling and stirred at the same temperature for 1 hour. Under ice-cooling, the reaction solution was mixed with water (20 ml) and then ethanol was evaporated under a reduced pressure. The thus obtained residue was mixed with chloroform (50 ml) and stirred, and then the thus separated chloroform layer was washed with saturated sodium chloride aqueous solution (30 ml) and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated to dryness under a reduced pressure, thereby obtaining 1.509 g (98.3%) of the title compound as a colorless oil. This product was used in the subsequent reaction without purification.

reactant | Ethyl 4-(S)-benzyloxycarbonylamino-4-cyclopropyl-3-oxobutanoate | 4.778 mmol, 1.526 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)=O)C1CC1 | C17H21NO5
reactant | sodium borohydride | 2.50 mmol, 94.6 mg | [BH4-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Ethyl 4-(S)-benzyloxycarbonylamino-4-cyclopropyl-3-hydroxybutanoate | 1.509 g, 98.3% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)O)C1CC1 | C17H23NO5
